US07691882B2
4-(3-Fluoro-pyridin-2-yloxymethyl)-benzaldehyde
To a tetrahydrofuran (40 mL) solution of 2-(4-bromo-benzyloxy)-3-fluoro-pyridine (2.03 g, 7.20 mmol) described in Manufacturing Example 149-1-1 was added n-Butyl lithium (5.04 mL, 1.6 M hexane solution, 7.92 mmol) under nitrogen atmosphere at −78° C., which was stirred for 45 minutes at −78° C. Then, N,N-dimethylformamide (725 μL, 9.36 mmol) was added to the reaction mixture at −78° C., which was stirred for 1 hour and 10 minutes while the temperature was raised to room temperature. Water was added to the reaction solution at room temperature, which was extracted with ethyl acetate. The organic layer was separated, washed with saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (887 mg, 53%).

reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | 2-(4-bromo-benzyloxy)-3-fluoro-pyridine | 7.20 mmol, 2.03 g | BrC1=CC=C(COC2=NC=CC=C2F)C=C1 | C12H9BrFNO
reactant | n-Butyl lithium | 7.92 mmol, 1.6 M, 5.04 mL | C(CCC)[Li]
reactant | N,N-dimethylformamide | 9.36 mmol, 725 μL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-(3-Fluoro-pyridin-2-yloxymethyl)-benzaldehyde | 887 mg, 53% | FC=1C(=NC=CC1)OCC1=CC=C(C=O)C=C1 | C13H10FNO2
